US09260427B2
Prepared using General Procedure 9: A stirred solution of (S)-tert-butyl 2-(((benzyloxy)carbonyl)amino)-3-(4-hydroxyphenyl)propanoate hydrate (25 g, 64.2 mmol) in DCM (100 mL) was treated with MgSO4 (4.01 g, 33.7 mmol). After 15 min, the mixture was filtered and washed with DCM (2×20 mL). The organics were treated with N-ethyl-N-isopropylpropan-2-amine (17.41 g, 134.7 mmol) and stirred. This solution was treated with 1,1,1-trifluoro-N-phenyl-N-((trifluoromethyl)sulfonyl)methanesulfonamide (26.44 g, 74.01 mmol) and the mixture was allowed to stir overnight at room temperature. The mixture was treated with water (50 mL) and saturated aqueous NaHCO3 (20 mL) and stirred vigorously for 10 min. The layers were separated and the organic layer was further washed with saturated aqueous NaHCO3 (2×50 mL), water (50 mL), and saturated aqueous NaHCO3 (50 mL) and concentrated. The compound was purified by chromatography (EA/hexanes) to afford 26.85 g (79%) of (S)-tert-butyl 2-(((benzyloxy)carbonyl)amino)-3-(4-(((trifluoromethyl)sulfonyl)oxy)phenyl)propanoate INT-5. LCMS-ESI (m/z) calculated for C22H24F3NO7S, 503.1. found 526.1 [M+Na]+, tR=4.12 min (Method 3).

reactant | (S)-tert-butyl 2-(((benzyloxy)carbonyl)amino)-3-(4-hydroxyphenyl)propanoate hydrate | 64.2 mmol, 25 g | O.C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)OC(C)(C)C)CC1=CC=C(C=C1)O
reactant | MgSO4 | 33.7 mmol, 4.01 g | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | N-ethyl-N-isopropylpropan-2-amine | 134.7 mmol, 17.41 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 1,1,1-trifluoro-N-phenyl-N-((trifluoromethyl)sulfonyl)methanesulfonamide | 74.01 mmol, 26.44 g | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1)(F)F | C8H5F6NO4S2
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | water | 50 mL | O | H2O
product | (S)-tert-butyl 2-(((benzyloxy)carbonyl)amino)-3-(4-(((trifluoromethyl)sulfonyl)oxy)phenyl)propanoate | 26.85 g, 79% | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)OC(C)(C)C)CC1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F | C22H24F3NO7S
